US07273953B2
Synthesis of 9-Phenylcarbazole (exemplified compound I-27)
Carbazole was mixed in an amount of 16.47 g (98.52 mmol) with 31.0 g (197.04 mmol) of bromobenzene, 10.44 g (98.52 mmol) of sodium carbonate, 0.4 g (8.0 mmol) of copper-(I) chloride, and 3.0 g (8.0 mmol) of tetraphenylphosphonium chloride. This mixture was reacted at 115-125° C. for 2 hours in a nitrogen stream. After the reaction, 50 mL of toluene and 100 mL of water were added and the resultant mixture was subjected to liquid separation. Thereafter, the organic layer was washed with water and dried with anhydrous sodium sulfate. After the drying agent was removed by filtration, 15.6 g of activated clay was added. The resultant mixture was stirred at 50-55° C. for 1 hour and the clay was removed by filtration. The toluene was concentrated under reduced pressure and 352 mL of methanol was added to the residue. The resultant solution was subjected to crystallization. Thus, the target compound (I-27) was obtained as white crude crystals in an amount of 22.7 g (yield, 94.8%). The target compound obtained had a melting point of 96-97° C. and a content as determined by HPLC of 99.8% (HPLC conditions: column, ODS-80TM; eluent, acetonitrile/water (V/V=65/35); buffer, triethylamine and acetic acid each in an amount of 0.1%; detection UV, 254 nm; flow rate, 1.0 mL/min)

reactant | Carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | bromobenzene | 197.04 mmol, 31.0 g | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium carbonate | 98.52 mmol, 10.44 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetraphenylphosphonium chloride | 8.0 mmol, 3.0 g | [Cl-].C1(=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper-(I) chloride | 8.0 mmol, 0.4 g | [Cu]Cl
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile water | C(C)#N.O
solvent | water | 100 mL | O | H2O
product | 9-Phenylcarbazole | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=CC=CC12 | C18H13N
